US04396546
G. 4-(3-Acetylbenzenesulfonamido-1-benzoyloxy-N,N-dioctadecyl-2-naphthamide
A solution of 4-amino-1-benzoyloxy-N,N-dioctadecyl-2-naphthamide (15.7 mmol), and 2 ml of pyridine in 110 ml of THF was cooled to 0° to 5° C. and 3.42 g of m-chlorosulfonylacetophenone was added all at once. The solution was allowed to warm to room temperature and stirred overnight. The THF was removed under reducing pressure and the resulting solid was reslurried in water, dried and then recrystallized from heptane to give 9.32 g (58 percent) of a tan solid, melting point 91° to 93° C.

reactant | 4-amino-1-benzoyloxy-N,N-dioctadecyl-2-naphthamide | 15.7 mmol | NC1=CC(=C(C2=CC=CC=C12)OC(C1=CC=CC=C1)=O)C(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C54H86N2O3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | m-chlorosulfonylacetophenone | 3.42 g | ClS(=O)(=O)C=1C=C(C=CC1)C(C)=O | C8H7ClO3S
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | 3-Acetylbenzenesulfonamido-1-benzoyloxy-N,N-dioctadecyl-2-naphthamide | 9.32 g, 58 percent | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)NC=1C(=C(C2=CC=CC=C2C1)OC(C1=CC=CC=C1)=O)C(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C62H92N2O6S
